US08877905B2
A mixture of single diastereomer (R or S)-1-(2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate (658 mg, 1.68 mmol) and K2CO3 (241 mg, 1.74 mmol) in methanol (23 mL) was heated to reflux for 30 minutes. Water (5 mL) was added and the solution was neutralized to pH 7 with 1M HCl. Solvent was removed in vacuo and the residue was taken into a mixture of ethyl acetate (20 mL) and water (10 mL). The organic phase was separated, dried over anhydrous Na2SO4, concentrated in vacuo and purified by silica gel column chromatography to yield single enantiomer (R or S)-1-(2-nitrophenyl)-2,2-dimethyl-1-propanol (325 mg, 92%) as a light yellow oil. 1H NMR was identical to that of the racemic alcohol. The absolute configuration of the single enantiomer alcohol is not determined.

reactant | 1-(2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate | 1.68 mmol, 658 mg | [C@]12(C(CC(CC1)C2(C)C)C(=O)OC(C(C)(C)C)C2=C(C=CC=C2)[N+](=O)[O-])C | C22H31NO4
reactant | K2CO3 | 1.74 mmol, 241 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 5 mL | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 23 mL | CO | CH4O
product | 1-(2-nitrophenyl)-2,2-dimethyl-1-propanol | 325 mg, 92% | [N+](=O)([O-])C1=C(C=CC=C1)C(C(C)(C)C)O | C11H15NO3
